US07179823B1
Sodium hydride (60%, oily, 0.22 g) was added to a mixture of ethyl 4-(2-pyridyl)pyrrole-3-carboxylate (1.10 g), 4-(4-chlorometylphenoxymethyl)-5-methyl-2-phenyloxazole (1.83 g) and N,N-dimethylformamide (25 ml) at 0° C., and the mixture was stirred for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatograpy, and ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)pyrrole-3-carboxylate (2.43 g, yield: 97%) was obtained as an oily substance from the fraction eluted with tetrahydrofuran-hexane (1:1, volume ratio).

reactant | Sodium hydride | 0.22 g | [H-].[Na+]
reactant | ethyl 4-(2-pyridyl)pyrrole-3-carboxylate | 1.10 g | N1=C(C=CC=C1)C=1C(=CNC1)C(=O)OCC | C12H12N2O2
reactant | 4-(4-chlorometylphenoxymethyl)-5-methyl-2-phenyloxazole | 1.83 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)pyrrole-3-carboxylate | 2.43 g, yield: 97% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=NC=CC=C2)C(=O)OCC)C=C1 | C30H27N3O4
